US04954518
510 mg of metallic sodium was dissolved in 60 ml of methanol. The solution was ice-cooled. Thereto was added 4.25 g of 2-bromo-3-formylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one. The mixture was stirred for 2 hours at 0°-5° C. 600 ml of water was added thereto. The resulting mixture was washed with 200 ml of ethyl acetate, adjusted to pH 4 with 4N hydrochloric acid, and extracted with two 300-ml portions of ethyl acetate. The extracts (the organic layers) were combined, washed with a saturated aqueous sodium chloride solution, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from acetonitrile to obtain 2.87 g (yield: 71%) of 3-formylamino-2-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 188° C. (decomposed).

reactant | sodium | 510 mg | [Na] | Na
reactant | 2-bromo-3-formylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 4.25 g | BrC=1OC2=C(C(C1NC=O)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13BrN2O6S
reactant | water | 600 ml | O | H2O
reactant | methanol | 60 ml | CO | CH4O
product | 3-formylamino-2-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.87 g, yield: 71% | C(=O)NC1=C(OC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)OC | C18H16N2O7S
